US04563310
In the same manner, P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid (500 mg., 1.22 mmol) and ethyl bromoacetate (408 mg, 2.44 mmol) are reacted together with potassium carbonate (253 mg, 1.83 mmol) in 2-butanone (10 ml) to yield ethoxycarbonylmethyl P-ethyl-2-nitro-5-(2-chloro-4-tri-fluoromethylphenoxy)phenylphosphinate.

reactant | P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid | 1.22 mmol, 500 mg | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C15H12ClF3NO5P
reactant | ethyl bromoacetate | 2.44 mmol, 408 mg | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 1.83 mmol, 253 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 10 ml | CC(CC)=O | C4H8O
product | ethoxycarbonylmethyl P-ethyl-2-nitro-5-(2-chloro-4-tri-fluoromethylphenoxy)phenylphosphinate | C(C)P(OCC(=O)OCC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C19H18ClF3NO7P
